US07977344B2
6-Amino-2-butyloxy-9-[2-(tetrahydro-2H-Pyran-2-yl)ethyl]-7,9-dihydro-8H-Purin-8-one
A solution of 2-butyloxy-8-methoxy-9-[2-(tetrahydro-2H-pyran-2-yl)ethyl]-9H-purin-6-amine (88 mg) in methanol (2 mL) was treated with 4N HCl in 1,4-dioxane (1 mL) for 1 h. The reaction was evaporated and the residue treated with water then basified with saturated sodium bicarbonate solution. The resulting white solid was filtered, washed with water and dried to give the title compound (78.1 mg).

reactant | 2-butyloxy-8-methoxy-9-[2-(tetrahydro-2H-pyran-2-yl)ethyl]-9H-purin-6-amine | 88 mg | C(CCC)OC1=NC(=C2N=C(N(C2=N1)CCC1OCCCC1)OC)N | C17H27N5O3
reactant | HCl | 4N | Cl | ClH
solvent | methanol | 2 mL | CO | CH4O
solvent | 1,4-dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | 6-Amino-2-butyloxy-9-[2-(tetrahydro-2H-Pyran-2-yl)ethyl]-7,9-dihydro-8H-Purin-8-one | 78.1 mg | NC1=C2NC(N(C2=NC(=N1)OCCCC)CCC1OCCCC1)=O | C16H25N5O3
